US09255090B2
To a solution of 2-isopropylphenol (1.39 mL, 10 mmol, 1 eq.) in DCM (8 mL), bromine (0.52 mL, 10 mmol, 1 eq.) was added at r.t. over a period of 10 min. The reaction mixture was stirred at r.t. for 18 hours. The mixture was poured into a mixture of sat. aq. NaHCO3 soln. (25 mL) and ice. The resulting mixture was extracted with AcOEt (2×25 mL). The comb. org. layers were washed successively with water (25 mL) and sat. aq. NaCl soln. (25 mL), then dried over MgSO4, filtered, and concentrated in vacuo. The residue was purified by flashmaster (column: 100 g, flow: 45 mL/min, 30 fractions of 45 mL, Heptane 100% to Heptane+10% AcOEt) to yield 4-bromo-2-isopropyl-phenol as a pale yellow oil.

reactant | 2-isopropylphenol | 10 mmol, 1.39 mL, 1 eq. | C(C)(C)C1=C(C=CC=C1)O | C9H12O
reactant | bromine | 10 mmol, 0.52 mL, 1 eq. | BrBr | Br2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
product | 4-bromo-2-isopropyl-phenol | BrC1=CC(=C(C=C1)O)C(C)C | C9H11BrO
